US03950333
Reaction of N-methyl-N'-[2-(3-isoxazolylmethylthio)ethyl]thiourea with lead cyanamide by the procedure of Example 121 gives N-cyano-N'-methyl-N"-[2-(2-(3-isoxazolylmethylthio)ethyl]guanidine.

reactant | N-methyl-N'-[2-(3-isoxazolylmethylthio)ethyl]thiourea | CNC(=S)NCCSCC1=NOC=C1 | C8H13N3OS2
reactant | lead cyanamide | N#CN.[Pb]
product | 2-(2-(3-isoxazolylmethylthio)ethyl]guanidine | O1N=C(C=C1)CSCCN=C(N)N | C7H12N4OS
